US07547697B2
A solution of (Z)-2-(4,4-Dimethyl-2-oxo-pentyl)-cyclooct-2-enone (0.07 g) in ethanol (6 ml) was treated at RT with water (1.5 ml), hydrazine monohydrate (0.07 ml) and acetic acid (1.5 ml), and the mixture was then heated to reflux for 12 h (oil bath temperature: 105° C.). The reaction mixture was partitioned between water and AcOEt. The combined organic layers were washed with 2M aqueous KHCO3, dried over Na2SO4, filtered and evaporated. The residue was purified by flash chromatography (heptane/AcOEt 100% to 85%) to give 3-(2,2-dimethyl-propyl)-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine, (0.018 g) as an amorphous white solid. MS (ESI): 233.2 (MH+).

reactant | (Z)-2-(4,4-Dimethyl-2-oxo-pentyl)-cyclooct-2-enone | 0.07 g | CC(CC(C/C=1/C(CCCCC\C1)=O)=O)(C)C | C15H24O2
reactant | water | 1.5 ml | O | H2O
reactant | hydrazine monohydrate | 0.07 ml | O.NN
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 3-(2,2-dimethyl-propyl)-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine | 0.018 g | CC(CC1=CC2=C(N=N1)CCCCCC2)(C)C | C15H24N2
